US07417064B2
c) 3-Chloro-4-fluoro-7-methoxy-1-benzothiophene-2-carboxylic acid.
Methyl 3-chloro-4-fluoro-7-methoxy-1-benzothiophene-2-carboxylate (2.00 g, 7.29 mmol) was suspended in THF:H2O[10:1] and lithium hydroxide (260 mg) added, the resulting suspension was heated to 40° C. for 1 h. After cooling to room temperature the mixture was extracted with diethyl ether (50 mL) and the aqueous phase acidified to pH 2 and the solid collected by filtration and vacuum dried to give a white solid (1.09 g, 58%); δH (300 M , DMSO) 7.32-7.20 (1H, m, Ar), 7.15-7.05 (1H, dd, Ar), 3.98 (3H, s, OCH3).

reactant | Methyl 3-chloro-4-fluoro-7-methoxy-1-benzothiophene-2-carboxylate | 7.29 mmol, 2.00 g | ClC1=C(SC2=C1C(=CC=C2OC)F)C(=O)OC | C11H8ClFO3S
reactant | H2O | O | H2O
reactant | lithium hydroxide | 260 mg | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-Chloro-4-fluoro-7-methoxy-1-benzothiophene-2-carboxylic acid | 1.09 g, 58% | ClC1=C(SC2=C1C(=CC=C2OC)F)C(=O)O | C10H6ClFO3S
